US06472412B1
A mixture of methyl 5-hydroxy-6-methylthionicotinoate (3 g), isopropyl bromide (2.1 mL) and anhydrous potassium carbonate (3 g) in dry dimethylformamide (35 mL) is stirred and heated at 60±5° C. for 18 hours. After cooling the solvent is removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase is washed with brine and dried (MgSO4). Evaporation gives a brown oil which is purified by flash chromatography (pentane/ethyl acetate 4:1 v/v as eluent on silica) to give methyl 5-isopropyloxy-6-methylthionicotinoate (2.36 g) as a pale yellow oil. [Elemental analysis: C, 54.40; H, 6.24; N, 5.88%. calculated: C, 54.75; H, 6.27; N, 5.81%.].

reactant | methyl 5-hydroxy-6-methylthionicotinoate | 3 g | OC=1C(=NC=C(C(=S)OC)C1)C | C8H9NO2S
reactant | isopropyl bromide | 2.1 mL | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | methyl 5-isopropyloxy-6-methylthionicotinoate | 2.36 g | C(C)(C)OC=1C(=NC=C(C(=S)OC)C1)C | C11H15NO2S
